US05955464
A mixture of 4-chloro-6-fluoroquinazoline (2 g), 3,4-dichloroaniline (1.78 g) and isopropanol (30 ml) was heated at reflux for 2 hours. The resulting solid was filtered off, washed with isopropanol and with diethyl ether to give 4-(3,4-dichloroanilino)-6-fluoroquinazoline hydrochloride (3.2 g), m.p. >300° C.; NMR Spectrum: (CD3SOCD3) 7.74 (d, 1H), 7.88 (m, 1H), 8.07 (m, 2H), 8.24 (d, 1H), 8.97 (m, 1H), 8.98 (s, 1H);

reactant | 4-chloro-6-fluoroquinazoline | 2 g | ClC1=NC=NC2=CC=C(C=C12)F | C8H4ClFN2
reactant | 3,4-dichloroaniline | 1.78 g | ClC=1C=C(N)C=CC1Cl | C6H5Cl2N
solvent | isopropanol | 30 ml | C(C)(C)O | C3H8O
product | 4-(3,4-dichloroanilino)-6-fluoroquinazoline hydrochloride | 3.2 g | Cl.ClC=1C=C(NC2=NC=NC3=CC=C(C=C23)F)C=CC1Cl | InChI=1S/C14H8Cl2FN3.ClH/c15-11-3-2-9(6-12(11)16)20-14-10-5-8(17)1-4-13(10)18-7-19-14;/h1-7H,(H,18,19,20);1H
